US08053438B2
STEP 4: BENZO[D]THIAZOL-2-YL(4-(3-CHLOROPYRAZIN-2-YLOXY)PHENYL)METHANONE
In 250 mL round bottom flask were charged benzo[d]thiazol-2-yl(4-hydroxyphenyl)methanone (6.0 g, 23.5 mmol), 2,3-dichloro-pyrazine (3.48 g, 23.5 mmol), DMSO (60 mL), and cesium carbonate (15 g, 47 mmol). The reaction mixture was stirred at 90° C. for 6 h. The reaction mixture was diluted with cold water and the precipitate was collected by filtration. The crude product was purified by silica gel column chromatography with hexane and ethyl acetate to give the title compound. [M+H]=368.

reactant | benzo[d]thiazol-2-yl(4-hydroxyphenyl)methanone | 23.5 mmol, 6.0 g | S1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)O | C14H9NO2S
reactant | 2,3-dichloro-pyrazine | 23.5 mmol, 3.48 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | DMSO | 60 mL | CS(=O)C | C2H6OS
reactant | cesium carbonate | 47 mmol, 15 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | O | H2O
product | BENZO[D]THIAZOL-2-YL(4-(3-CHLOROPYRAZIN-2-YLOXY)PHENYL)METHANONE | S1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2Cl | C18H10ClN3O2S
